US07192980B2
b) Preparation of N-[(2S,3R,4S,5Z,8S,9R,10R,11S,12S,13Z)-3,9-bis[[(1,1-dimethylethyl)dimethylsilyl]oxy]-11-hydroxy-2,4,6,8,10,12-hexamethyl-5,13,15-hexadecatrienyl]-N-methyl-cyclohexaneacetamide.
A DMF (2 mL) solution of cyclohexaneacetic acid (30.2 mg, 0.222 mmol) and BOP (131 mg, 0.296 mmol) is added to the stirred DMF (3 mL) solution of (3Z,5S,6S,7R,8R,9S,11Z,13S,14R,15S)-8,14-bis[[(1,1-dimethylethyl)dimethylsilyl]oxy]-5,7,9,11,13,15-hexamethyl-16-(methylamino)-1,3,11-hexadecatrien-6-ol (90 mg, 0.148 mmol) and DIEA (77 μL, 0.444 mmol) dropwise at 0° C. The solution is warmed up to 23° C. and stirred for an additional 1 hour. DMF is removed in vacuo and the residue is dissolved in EtOAc (10 mL). The organic solution is washed with H2O (1×10 mL) and brine (1×10 mL). The aqueous layer is extracted with Et2O (3×20 mL) and the combined extracts are dried (Na2SO4) and concentrated. Chromatography (SiO2, 0–30% EtOAc-hexanes gradient elution) provided the desired compound (70 mg, 65%). HRMS: ESI m/z 734.5906 (M+H+), Calcd. 734.5939.

reactant | cyclohexaneacetic acid | 0.222 mmol, 30.2 mg | C1(CCCCC1)CC(=O)O | C8H14O2
reactant | BOP | 0.296 mmol, 131 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | (3Z,5S,6S,7R,8R,9S,11Z,13S,14R,15S)-8,14-bis[[(1,1-dimethylethyl)dimethylsilyl]oxy]-5,7,9,11,13,15-hexamethyl-16-(methylamino)-1,3,11-hexadecatrien-6-ol | 0.148 mmol, 90 mg | CC(C)(C)[Si](O[C@@H]([C@@H]([C@H]([C@H](\C=C/C=C)C)O)C)[C@H](C\C(=C/[C@@H]([C@H]([C@H](CNC)C)O[Si](C)(C)C(C)(C)C)C)\C)C)(C)C | C35H71NO3Si2
reactant | DIEA | 0.444 mmol, 77 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-[(2S,3R,4S,5Z,8S,9R,10R,11S,12S,13Z)-3,9-bis[[(1,1-dimethylethyl)dimethylsilyl]oxy]-11-hydroxy-2,4,6,8,10,12-hexamethyl-5,13,15-hexadecatrienyl]-N-methyl-cyclohexaneacetamide | 70 mg, 65% | CC(C)(C)[Si](O[C@@H]([C@H](CN(C(CC1CCCCC1)=O)C)C)[C@H](\C=C(/C[C@@H]([C@H]([C@@H]([C@H]([C@H](\C=C/C=C)C)O)C)O[Si](C)(C)C(C)(C)C)C)\C)C)(C)C | C43H83NO4Si2
